Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"An overall exacerbation of symptoms... I feel
myself spiraling"
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ y/o SWF h/o depression, anxiety
self-presenting with worsened depression and anxiety symptoms
seeking voluntary inpatient admission. Pt reports ~ 2 months
worsening symptoms despite being otherwise stable on her psych
meds x ___ years. Symptoms include frequent panic attacks (up to
___ daily), severely depressed mood, poor sleep and overall
decline in functioning with little energy/motivation to do
things. Describes her work as another stressor as she works with
young children with severe mental illness. Another stressor is
difficult making ends meet financially. Says she has been 
letting
bills pile up because she can not pay them and feels overwhelmed
with how to deal with such stress. Today she felt overwhelmed 
and
decided to come to hospital "before things got bad" as she "does
not want to get suicidal this time." Has had increasing thoughts 
about
death and sometimes feels that it would be easier to be dead (no
plan/intent). Pt denies any history of
suicide attempts. Did cut arm ___ years ago but not anymore, 
says,
"now I get tattoos." Denies manic or psychotic symptoms. 
 
Past Medical History:
1. snowboard injury -> chronic back pain in ___
2. frequent headaches
3. asthma
4. s/p "multiple" sports-related concussions

PCP: ___ from Dr. ___ at ___ 
___ to Dr. ___ at ___.

Past Psychiatric History:
Dx- depression, borderline PD (per Deac 4 discharge summary in
___, ___- 3 lifetime. First in ___ for <24 hrs in ___ for 
panic
attacks. Second in ___ here at ___, for as pt says, "I lost
it" and third in ___ at ___ after a break-up, again a
brief stay. Has found DBT useful in the past.
SA/SIB- Denies SA. Reports cutting arm ___ yrs ago, but no SIB 
since.
Psychiatrist- ___
Therapist- Awaiting referral at ___
Med trials- Zoloft, Paxil, Prozac, low-dose Seroquel.

Sustance Use History:
She denies using substances other than smoking 1ppd. 
 
Social History:
___
Family History:
Maternal grandmother and uncle who committed suicide, extensive 
history of depression and alcohol abuse in her family.

 
Physical Exam:
VS: BP: 103/57  HR: 64  temp: 98.1F  resp: 16  O2 sat: 100% RA  
height: 71 inches   weight: 230.4 lbs  

MENTAL STATUS EXAM:
-appearance: overweight woman with dyed blond spiked hair,
numerous tatoos
-behavior/attitude: cooperative, some PMR, no abnormal movements
noted, fair eye contact
-speech: slightly pressured, normal volume and tone, no
dysarthria or aphasia.
-mood: "I'm exhausted, I wanted to come in before it reached a
crisis level."
-affect: dysphoric, constricted, consistent with stated mood 
-thought process: linear, logical
-thought content: endorses SI but denies plan or urges for SIB,
denies HI, no evidence of delusions or paranoia
-perception: denies AH, VH
-insight: fair
-judgment: fair
 
COGNITIVE EXAM:
-orientation: alert and oriented to person, place, time,
situation
-attention/concentration: able to recite MOYB 
-memory: registration and recall at 5 minutes intact
-calculations: quarters in $2.25 = 9 
-language: grossly intact
-fund of knowledge: intact, moderate intelligence
-proverbs: not tested
-similarities/analogies: not tested 

PE:
General: Well-nourished, in no distress.
HEENT: Normocephalic. PERRL, EOMI. ___ normal. Oropharynx clear.
Neck: Supple, trachea midline.  No adenopathy or thyromegaly.
Back: No significant deformity, no focal tenderness.
Lungs: Clear to auscultation; no crackles or wheezes.
CV: RRR; no murmurs/rubs/gallops; 2+ pedal pulses
Abdomen: Soft, obese, nontender; no masses or organomegaly
Extremities: No clubbing, cyanosis, or edema.
Skin: Warm and dry, no rash or significant lesions.
Neurological:
  *Cranial Nerves-
     I: Not tested
     II: PERRL bilaterally. V
     III, IV, VI: EOMI bilaterally without nystagmus.
     V, VII: Facial strength and sensation intact and symmetric.
     VIII: Hearing intact to voice.
     IX, X: Palatal elevation symmetrical.
     XI: Sternocleidomastoid and trapezius normal bilaterally.
     XII: Tongue midline without fasciculations.
  *Motor- Normal bulk and tone bilaterally. No abnormal
movements, tremors. Strength full power ___ throughout. No
pronator drift. Normal gait.
  *Sensation- Intact to light touch bilaterally.
  *Reflexes- B Pa 2+ bilaterally symmetric
  *Coordination- Normal FNF
 
Pertinent Results:
___ 02:00PM   D-DIMER-246

___ 09:00PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 09:15PM URINE  bnzodzpn-POS barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-POS mthdone-NEG

___ 09:15PM URINE  UCG-NEGATIVE

___ 09:15PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 09:15PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-TR BILIRUBIN-NEG UROBILNGN-NEG PH-5.0 
LEUK-NEG

___ 09:00PM   GLUCOSE-115* UREA N-10 CREAT-0.8 SODIUM-139 
POTASSIUM-4.0 CHLORIDE-103 TOTAL CO2-27 ANION GAP-13
___ 09:00PM   TSH-2.5

___ 09:00PM   WBC-7.3 RBC-4.06* HGB-12.7 HCT-36.3 MCV-90 
MCH-31.4 MCHC-35.1* RDW-12.6
___ 09:00PM   NEUTS-60.6 ___ MONOS-4.3 EOS-2.0 
BASOS-0.6
___ 09:00PM   PLT COUNT-___ F w/ h/o depression, anxiety, affect dysregulation admitted 
___ for increasing frequency of panic attacks, increasing 
depression, and increased thoughts about death.

#Psychiatric) Given pt's prominent anxiety symptoms with 
worsening depression, offered pt choice of adding Buspar, 
Cymbalta (to also address chronic pain), or Remeron (to also 
address insomnia) to current regimen or increaing Abilify and 
adding trazodone for insomnia. Latter option chosen to assist 
with mood lability and to avoid polypharmacy. Patient will 
monitor whether or not she has an increase in anxiety with 
abilify (has denied this in the past). Trazodone was added to 
assist with sleep and is intended to be short-term. Continued 
home Lamictal. Clonazpepam given 0.5mg at noon and 4pm, as 
requested by pt. Continued home Adderall 20mg TID PRN, as 
requested by pt. She was advised that these two medications can 
sometimes be counteractive and should further discuss this 
continued combination as an outpatient. Pt remained in 
behavioral control on the unit and was observed to be 
appropriate with staff and other pts. Through out the stay the 
patient clearly denied suicidal ideation, plan or intent and had 
come to the hospital for a psychopharm evaluation, for a 
referral to a partial program, and to increase support for 
herself. She was referred to a women's partial program, and a 
meeting was held with multiple friedns and family members for 
safety planning and discharge planning. The patient did not 
appear to be at acute risk to herself at time of discharge and 
demonstrated frustration tolerance and use of coping skills. 
Admission was discussed with her outpatient psychiatrist, Dr. 
___. 

#HAs) Describes aspects of tension and migraine HAs, including: 
photophobia, bitemporal and neck/shoulder involvement, 
improvement w/ rest. Likely exacerbated by anxiety. Received 
ASA, Fiorocet, ibuprofen PRN. 

#Back pain) Continued home oxycontin while hospitalized, but 
advised that she will need to seek outpt refills from previous 
or new PCP. Also encouraged referral via PCP to pain clinic to 
optimize management.

#Safety) No acute safety concerns. Maintained on Q15min checks.

#Legal) Signed a CV on admission.
 
Medications on Admission:
(Confirmed with ___.  She 
was prescribed oxycontin 20mg BID dispense 60 on ___ by ___ 
___ ___ and then
received a prescription for percocet 1q ___ on ___ from ___ ___

Lamictal 200mg qhs
Abilify 10mg daily
hyoscyamine 0.375 q12
Klonopin 0.5mg BID (per pharmacy 1mg bid, pt reports 0.5)
Adderall 20mg TID
Oxycontin 20mg BID
 
Discharge Medications:
1. lamotrigine 100 mg Tablet Sig: Two (2) Tablet PO HS (at 
bedtime).  
2. butalbital-acetaminophen-caff 50-325-40 mg Tablet Sig: One 
(1) Tablet PO Q8H (every 8 hours) as needed for migraine.
Disp:*14 Tablet(s)* Refills:*0*
3. amphetamine-dextroamphetamine 5 mg Tablet Sig: Four (4) 
Tablet PO twice a day as needed for concentration.
Disp:*160 Tablet(s)* Refills:*0*
4. trazodone 150 mg Tablet Sig: One (1) Tablet PO at bedtime as 
needed for insomnia.
Disp:*30 Tablet(s)* Refills:*0*
5. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).
Disp:*60 Capsule(s)* Refills:*0*
6. senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.
Disp:*60 Tablet(s)* Refills:*0*
7. hyoscyamine sulfate 0.375 mg Capsule,Extended Release 12 hr 
Sig: One (1) Capsule,Extended Release 12 hr PO BID (2 times a 
day).  
8. aripiprazole 15 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*0*
9. clonazepam 0.5 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).
Disp:*28 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Axis I: Panic attacks; Depressive disorder NOS (r/o Major 
depressive disorder, Dysthymic disorder); r/o Generalized 
anxiety dirsorder
Axis II: Borderline traits
Axis III: Asthma; Chronic back pain s/p snowboarding accident 
___ Headaches

 
Discharge Condition:
Patient is currently stable, denying Si/Hi. Ambulating normally. 

Mental Status Exam: 
Appearance/Behavior: Large build; tattoos on legs, ring through
septum; wearing ski cap, hoody, sweatpants; good
hygiene/grooming; eye contact appropriate; facial expressions
full.
Motor: No abnormal movements; nopma/pmr.
Attitude: Pleasant, cooperative.
Mood: 'More depressed being here'
Affect: Dysthymic, constricted.
Speech: Nl rate/rhythm, decreased volume 
Thought process: Linear, logical.
Thought content: +passive SI; no HI, AVH, delusions.
Insight/Judgment: Fair/Fair
        Cognition: A+Ox3

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

*It was a pleasure to have worked with you, and we wish you the 
best of health.*
 
Followup Instructions:
___